US08044068B2
Synthesis of 1-((S)-3-(4-ethylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone benzenesulfonate (Compound 3-029)
4-Ethylquinoline-1-ol (0.53 g) was dissolved in N-methylpyrrolidone (10 mL), followed by addition of sodium hydride (60% in oil, 130 mg), the mixture was stirred for 1 h, followed by addition of N-phenyl-trifluoromethane sulfonimide (1.33 g), and the mixture was stirred at room temperature for 1 h. To the reaction mixture were added sodium carbonate (0.39 g) and (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (1.1 g), and the mixture was stirred at 100° C. for 4 h. The reaction mixture was cooled to room temperature, followed by addition of ethyl acetate and saturated aqueous sodium hydrogencarbonate to separate the layers, and then the organic layer was washed with water and saturated brine and dried with anhydrous sodium sulfate. The desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, then the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=2:1). To the resulting residue in diethyl ether, benzenesulfonic acid monohydrate (163 mg) was added, and the precipitated crystals were collected by filtration to obtain the title compound (0.39 g).

reactant | 4-Ethylquinoline-1-ol | 0.53 g | C(C)C1=CCN(C2=CC=CC=C12)O | C11H13NO
reactant | sodium hydride | 130 mg | [H-].[Na+]
reactant | N-phenyl-trifluoromethane sulfonimide | 1.33 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium carbonate | 0.39 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride | 1.1 g | Cl.N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((S)-3-(4-ethylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone benzenesulfonate | 0.39 g | C1(=CC=CC=C1)S(=O)(=O)O.C(C)C1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | InChI=1S/C24H24F3N3O2.C6H6O3S/c1-2-17-14-22(29-21-6-4-3-5-20(17)21)28-18-11-12-30(15-18)23(31)13-16-7-9-19(10-8-16)32-24(25,26)27;7-10(8,9)6-4-2-1-3-5-6/h3-10,14,18H,2,11-13,15H2,1H3,(H,28,29);1-5H,(H,7,8,9)/t18-;/m0./s1
